US08735417B2
2,4-Dichloropyrimidine (15 g, 101 mmol), cyclopropylboronic acid (8.65 g, 101 mmol), PdCl2(dppf)-CH2Cl2 adduct (8.22 g, 10.07 mmol), and potassium phosphate (53.4 g, 252 mmol) were combined in a 1 L flask. THF (503 mL) was added and the suspension was heated to reflux with stirring overnight. The reaction was then cooled to room temperature, concentrated to −100 mL under reduced pressure, extracted with ethyl acetate, washed with sat NaHCO3, brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with EtOAc/Hexanes to give 2-chloro-4-cyclopropylpyrimidine (10.124 g, 58.3 mmol, 58% yield) as an 89:11 mixture with EtOAc.

reactant | 2,4-Dichloropyrimidine | 101 mmol, 15 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | cyclopropylboronic acid | 101 mmol, 8.65 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 252 mmol, 53.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | THF | 503 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) CH2Cl2 | 10.07 mmol, 8.22 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-4-cyclopropylpyrimidine | 58.3 mmol, 10.124 g, 58% yield | ClC1=NC=CC(=N1)C1CC1 | C7H7ClN2
